US05656629
A mixture of ethyl 3-acetyl-4-oxopentanoate (37.24 g, 0.2 mol), hydroxylamine hydrochloride (14.6 g, 0.21 mol), NaOAc (17.23 g, 0.21 mol) and ethanol (500 mL) was refluxed for 4 hours. The reaction mixture was filtered, the filtrate was concentrated in vacuo and the residue was heated in acetic acid (12.61 g, 0.21 mol) and toluene (300 mL) for 6 to 6.5 hours with the removal of water. The reaction mixture was filtered and the filtrate was concentrated in vacuo to afford a tan oil which crystallized on cooling. The product was collected by filtration and washed with ether to afford 1.26 g of ethyl 3,5-dimethyl-4-isoxazolylacetate, m.p. 180°-182° C. Additional product was obtained by concentration of the ether filtrate and distillation of the residue at 69°-81.5° C. and 0.05 mm Hg to afford a total of 31.18 g (85%).

reactant | ethyl 3-acetyl-4-oxopentanoate | 0.2 mol, 37.24 g | C(C)(=O)C(CC(=O)OCC)C(C)=O | C9H14O4
reactant | hydroxylamine hydrochloride | 0.21 mol, 14.6 g | Cl.NO
reactant | NaOAc | 0.21 mol, 17.23 g | CC(=O)[O-].[Na+]
reactant | acetic acid | 0.21 mol, 12.61 g | C(C)(=O)O | C2H4O2
solvent | ethanol | 500 mL | C(C)O | C2H6O
product | ethyl 3,5-dimethyl-4-isoxazolylacetate | 1.26 g | CC1=NOC(=C1CC(=O)OCC)C | C9H13NO3
